US08383637B2
3-(3-Dimethoxymethyl-4-nitro-phenylsulfanyl)-phenylamine
K2CO3 (0.085 mol) was added to a mixture of 3-aminothiophenol (0.075 mol) in DMA (150 mL), then 4-chloro-2-dimethoxymethyl-1-nitrobenzene (0.050 mol) was added and the reaction mixture was stirred for 2 hours at 80° C. H2O was added and the mixture was extracted with diisopropyl ether. The crude product was purified by column chromatography (eluent: 70:30 CH2Cl2:hexane up to 99:1 CH2Cl2:CH3OH). The product fractions were collected and the solvent was evaporated to yield the title compound as a residue which contained about 10% of an impurity. (The product was used in subsequent steps without further purification.)

reactant | K2CO3 | 0.085 mol | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-aminothiophenol | 0.075 mol | NC=1C=C(C=CC1)S | C6H7NS
reactant | 4-chloro-2-dimethoxymethyl-1-nitrobenzene | 0.050 mol | ClC1=CC(=C(C=C1)[N+](=O)[O-])C(OC)OC | C9H10ClNO4
reactant | H2O | O | H2O
solvent | DMA | 150 mL | CC(=O)N(C)C | C4H9NO
product | 3-(3-Dimethoxymethyl-4-nitro-phenylsulfanyl)-phenylamine | COC(C=1C=C(C=CC1[N+](=O)[O-])SC=1C=C(C=CC1)N)OC | C15H16N2O4S
